US06121450
To a stirred solution of Boc2O (10.05 g, 0.046 mol) and 1,2,3,4-tetrahydro-4-quinolinone (6.16 g, 0.042 mol) in THF (100 mL) at 0° C. was added slowly DMAP (5.11 g, 0.042 mol) in 100 mL of THF. The reaction mixture was stirred overnight, then water (75 mL) was added and the mixture was extracted with ethyl acetate (2×200 mL). The organic phase was dried (Na2SO4) and the solvent was removed in vacuo to give a solid residue that was subjected to flash chromatography (silica gel, hexanes/ethyl acetate, 8:2) which afforded 8.5 g (82%) of 1-tert-butyloxycarbonyl 1,2,3,4-tetrahydro-4-quinolinone. Data for 1-tert-butyloxycarbonyl-1,2,3,4-tetrahydro-4-quinolinone: 1H NMR (400 MHz, CDCl3) 7.98 (dd, J=7.9, 1.7, 1 H), 7.76 (d, J=8.4, 1 H), 7.49 (ddd, J=7.5, 7.5, 1.7, 1 H), 7.15 (ddd, J=8.0, 8.0, 0.9, 1 H), 4.15 (t, J=6.3, 2 H), 2.76 (t, J=6.6, 2 H), 1.55 (s, 9 H).

reactant | Boc2O | 0.046 mol, 10.05 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,2,3,4-tetrahydro-4-quinolinone | 0.042 mol, 6.16 g | N1CCC(C2=CC=CC=C12)=O | C9H9NO
reactant | water | 75 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.042 mol, 5.11 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-tert-butyloxycarbonyl 1,2,3,4-tetrahydro-4-quinolinone | 8.5 g, 82% | C(C)(C)(C)OC(=O)N1CCC(C2=CC=CC=C12)=O | C14H17NO3
